US06642250B2
A solution of 4-(2-benzothiazolyl)butanoic acid (3.75 g, 16.1 mmol, prepared according to the procedure of Example 11 in JP, A, 8-208631 (1996)) in hydrochloric acid-methanol (80 ml) was stirred at room temperature overnight, and evaporated. The residue was dissolved in chloroform, and washed with saturated aqueous sodium hydrogen carbonate. The organic layer was dried over anhydrous magnesium sulfate, evaporated, and purified through flash column chromatography to give methyl 4-(2-benzothiazolyl)butanoate (2.75 g, 73%).

reactant | 4-(2-benzothiazolyl)butanoic acid | S1C(=NC2=C1C=CC=C2)CCCC(=O)O | C11H11NO2S
reactant | hydrochloric acid methanol | 80 ml | Cl.CO
product | methyl 4-(2-benzothiazolyl)butanoate | 2.75 g, 73% | S1C(=NC2=C1C=CC=C2)CCCC(=O)OC | C12H13NO2S
